US08791123B2
(R)—N-(1-fluoro-2-methylpropan-2-yl)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
Prepared by the method described in Example 1 using (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I) and 1-fluoro-2-methylpropan-2-amine to yield the title compound as a white solid (37 mg, 100% yield). MS (apci) m/z=401.0 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | 1-fluoro-2-methylpropan-2-amine | FCC(C)(N)C | C4H10FN
product | (R)—N-(1-fluoro-2-methylpropan-2-yl)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 37 mg, 100% yield | FCC(C)(C)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C=2C=NC=C(C2)F | C20H22F2N6O
